US07141671B2
Biphenyl-2-ylcarbamic Acid 1-{9-[(R)-2-Hydroxy-2-(8-Hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl Ester Naphthalene-1,5-disulfonic Acid Salt
Biphenyl-2-ylcarbamic acid 1-{9-[(R)-2-hydroxy-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl ester (1.0 g, 1.56 mmol, free base) was dissolved in methanol (10 mL; low water content). A solution of naphthalene-1,5-disulfonic acid (0.45 g, 1.56 mmol) in methanol (5 mL; low water content) was added and the reaction mixture was stirred at 30° C. for two hours and then at room temperature overnight (18 h). The resulting thick slurry was filtered and the filtrate cake was washed with methanol (5 mL) and then dried to give the title compound (1.16 g, 80% yield) as off-white crystalline solid.

reactant | Biphenyl-2-ylcarbamic acid 1-{9-[(R)-2-hydroxy-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl ester | 1.56 mmol, 1.0 g | O[C@@H](CNCCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C1=C2C=CC(NC2=C(C=C1)O)=O | C38H48N4O5
reactant | naphthalene-1,5-disulfonic acid | 1.56 mmol, 0.45 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | Biphenyl-2-ylcarbamic Acid 1-{9-[(R)-2-Hydroxy-2-(8-Hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl Ester Naphthalene-1,5-disulfonic Acid Salt | 1.16 g, 80% yield | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.O[C@@H](CNCCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C38H48N4O5.C10H8O6S2/c43-34-19-17-31(32-18-20-36(45)41-37(32)34)35(44)27-39-23-11-4-2-1-3-5-12-24-42-25-21-29(22-26-42)47-38(46)40-33-16-10-9-15-30(33)28-13-7-6-8-14-28;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h6-10,13-20,29,35,39,43-44H,1-5,11-12,21-27H2,(H,40,46)(H,41,45);1-6H,(H,11,12,13)(H,14,15,16)/t35-;/m0./s1
